US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (14.5 g, 43.2 mmol), obtained in the same manner as in the method described in WO03/010140, and 2,4-bismethoxymethoxyphenylboronic acid (13.6 g, 56.2 mmol) in 1,2-dimethoxyethane (140 ml) and water (70 ml) were added lithium chloride (5.5 g, 129 mmol), sodium carbonate (13.7 g, 129 mmol) and tetrakis(triphenylphosphine)palladium (5.0 g, 4.3 mmol), and the mixture was stirred at 90° C. for 22 hr. The mixture was allowed to cool to room temperature, and filtered through celite. The filtrate was extracted with ethyl acetate and the organic layer was washed successively with saturated aqueous ammonium chloride solution and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate (16.9 g, yield 86%).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 43.2 mmol, 14.5 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | 2,4-bismethoxymethoxyphenylboronic acid | 56.2 mmol, 13.6 g | COCOC1=C(C=CC(=C1)OCOC)B(O)O | C10H15BO6
reactant | lithium chloride | 129 mmol, 5.5 g | [Cl-].[Li+]
reactant | sodium carbonate | 129 mmol, 13.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 140 ml | COCCOC | C4H10O2
solvent | water | 70 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 4.3 mmol, 5.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2,4-bismethoxymethoxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 16.9 g, yield 86% | COCOC1=C(C=CC(=C1)OCOC)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C26H31NO6
